US07531672B2
Synthesis of 2-methyl-1,2-dihydrobenzo[b]cyclopenta[d]thiophen-3-one
A solution of 66.9 g of benzo[b]thiophene (0.5 mol) and 46.3 g of methacrylic acid (0.537 mol) in 60 ml of dichloromethane was added dropwise starting at 70° C. within 20 minutes to 1000 g of super-PPA. The temperature was maintained at 65-70° C. during the addition. Methylene chloride was distilled off. After 2 h of reaction time, the reaction mixture was poured onto crushed ice and stirred until the polyphosphoric acid had completely dissolved. The aqueous phase was extracted with a dichloromethane/hexane solvent mixture (30 parts by volume/70 parts by volume). The combined organic phases were washed with a saturated aqueous solution of sodium hydrogen-carbonate and with water and dried over magnesium sulfate. After removing the solvents under reduced pressure, 79.8 g of a dark orange oil (71%) were obtained.

reactant | benzo[b]thiophene | 0.5 mol, 66.9 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | methacrylic acid | 0.537 mol, 46.3 g | C(C(=C)C)(=O)O | C4H6O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-methyl-1,2-dihydrobenzo[b]cyclopenta[d]thiophen-3-one | 79.8 g, 71% | CC1C(C2=C(C3=C(S2)C=CC=C3)C1)=O | C12H10OS
